US08629270B2
tert-Butyl 3-(benzoylcarbamothioylamino)-3-(4-bromo-2-thienyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate
To a solution of tert-butyl 3-amino-3-(4-bromo-2-thienyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate (8.5 g, 22.5 mmol) in tetrahydrofuran (100 mL) at 0° C. is added benzoyl isothiocyanate (3.24 mL, 24 mmol). The resulting solution is warmed to room temperature, and stirred under nitrogen at room temperature for 2 hours. The solution is concentrated and the residue is purified by silica gel flash chromatography eluting with hexanes/ethyl acetate (gradient from 100:0 to 0:100 over 30 min) to give the title compound. ES/MS (m/e): (79Br/81Br) 538/540 (M+H).

reactant | tert-butyl 3-amino-3-(4-bromo-2-thienyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate | 22.5 mmol, 8.5 g | NC1(CN(CC1CO)C(=O)OC(C)(C)C)C=1SC=C(C1)Br | C14H21BrN2O3S
reactant | benzoyl isothiocyanate | 24 mmol, 3.24 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-(benzoylcarbamothioylamino)-3-(4-bromo-2-thienyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OC(C)(C)C)C=1SC=C(C1)Br | C22H26BrN3O4S2
